US09447090B2
To a solution of 500 mg of methyl 3-[(E)-{[(S)-tert-butylsulfinyl]imino}methyl]benzoate in 12 ml of THF was added 0.50 ml of a 1 M diethylzinc/hexane solution at −78° C., followed by stirring at the same temperature for 5 minutes. 0.80 ml of a 3 M ethylmagnesium bromide/diethyl ether solution was added thereto at −78° C., followed by stirring at the same temperature for 2 hours. To the reaction mixture were added a saturated aqueous ammonium chloride solution and ethyl acetate to carry out a layer separation operation. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 447 mg of methyl 3-[(1S)-1-{[(S)-tert-butylsulfinyl]amino}propyl]benzoate.

reactant | methyl 3-[(E)-{[(S)-tert-butylsulfinyl]imino}methyl]benzoate | 500 mg | C(C)(C)(C)[S@](=O)\N=C\C=1C=C(C(=O)OC)C=CC1 | C13H17NO3S
reactant | diethylzinc hexane | 1 M | C(C)[Zn]CC.CCCCCC
reactant | ethylmagnesium bromide diethyl ether | 3 M | C(C)[Mg]Br.C(C)OCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-[(1S)-1-{[(S)-tert-butylsulfinyl]amino}propyl]benzoate | 447 mg | C(C)(C)(C)[S@](=O)N[C@@H](CC)C=1C=C(C(=O)OC)C=CC1 | C15H23NO3S
